US03939155
The compound of this invention defined by the introductory formula when R therein represents hydrogen can be prepared as follows: 21-(Hydroxymethyl)-3-methoxy-17α-pregna-1,3,5(10), 20-tetraen-17-ol, upon prolonged contact with p-toluenesulfonyl chloride in pyridine, affords 3-methoxyspiro[estra-1,3,5(10)-triene-17,2'(5'H)-furan]. Consecutively contacting the latter intermediate in cold tetrahydrofuran under nitrogen with borane and sodium peroxide (formed in situ) affords 4',5'-dihydro-3-methoxyspiro[estra-1,3,5(10)-triene-17,2'(3'H)-furan]-4'-ol, from which, upon consecutively contacting in tetrahydrofuran and 1,1-dimethylethanol with liquid ammonia and lithium, 4',5'-dihydro-3-methoxyspiro[estra-2,5(10)-diene-17,2'(3'H)-furan[-4'-ol is obtained. Conversion of this enol ether to the corresponding 5(10)-en-3-one occurs upon contact with 90% acetic acid, and from the 4',5'-dihydro-4'-hydroxyspiro[estr-5(10)-ene-17,2'(3'H)-furan]-3-one thus obtained, 4',5'-dihydro-4'-hydroxyspiro[estr- 4-ene-17,2'(3'H)-furan]-3-one eventuates on contact with hydrochloric acid in methanol. Finally, the hydroxyl therein is oxidized with Jones' reagent in acetone, affording 4',5'-dihydrospiro[estr-4-ene- 17,2'(3'H)-furan]-3,4'-dione.

reactant | 4',5'-dihydro-4'-hydroxyspiro[estr- 4-ene-17,2'(3'H)-furan]-3-one | OC1CC2(OC1)[C@]1(C)[C@@H](CC2)[C@@H]2CCC3=CC(CC[C@@H]3[C@H]2CC1)=O | C21H30O3
reactant | hydrochloric acid | Cl | ClH
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | 4',5'-dihydrospiro[estr-4-ene- 17,2'(3'H)-furan]-3,4'-dione | O1C2(CC(C1)=O)[C@]1(C)[C@@H](CC2)[C@@H]2CCC3=CC(CC[C@@H]3[C@H]2CC1)=O | C21H28O3
